US08580824B2
To a solution of 2,6-dichloro-isonicotinic acid tert.-butyl ester (1.74 g, 7.0 mmol), Fe(acac)3 (706 mg, 2.0 mmol) and NMP (1.0 g, 10 mmol) in THF (250 mL), a solution of isobutylmagnesium chloride (1.15 g, 9.8 mmol) in THF is slowly added at −77° C. The brown solution turns turbid and black. Stirring is continued for 1 h at −72° C. before it is warmed to rt. The mixture is again cooled to −40° C. and then stirred for 16 h. The reaction is carefully quenched with 0.5 N aq. HCl (100 mL) and diluted with ether. The org. layer is separated and the aq. phase is extracted five more times with ether. The combined org. extracts are dried over MgSO4, filtered and evaporated. The crude product is purified by MPLC on silica gel to give 2-chloro-6-isobutylisonicotinic acid tert.-butyl ester as a pale yellow oil (1.70 g) which contains 2,6-di-isobutylisonicotinic acid tert.-butyl ester as an impurity; LC-MS: tR=1.12 min, [M+1]+=270.07.

reactant | 2,6-dichloro-isonicotinic acid tert.-butyl ester | 7.0 mmol, 1.74 g | C(C)(C)(C)OC(C1=CC(=NC(=C1)Cl)Cl)=O | C10H11Cl2NO2
reactant | NMP | 10 mmol, 1.0 g | CN1CCCC1=O | C5H9NO
reactant | isobutylmagnesium chloride | 9.8 mmol, 1.15 g | C(C(C)C)[Mg]Cl
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-chloro-6-isobutylisonicotinic acid tert.-butyl ester | 1.70 g | C(C)(C)(C)OC(C1=CC(=NC(=C1)CC(C)C)Cl)=O | C14H20ClNO2
